US07148228B2
4-Chloro-1-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine
A mixture of 4-chloro-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine (1.76 g), 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine hydrochloride (3.70 g), K2CO3 (5.17 g), and DMF (20 ml) was heated to 80° C. for 30 min, diluted with EtOAc, washed with water and brine, concentrated, and purified by flash chromatography to give the title compound as a white solid (0.57 g). R.t. 4.46 min. 1H-NMR (CDCl3) δ 8.10 (s, 1H), 7.89 (s, 1H), 5.53 (2H), 5.24 (br. s, 2H), 3.74 (s, 3H), 2.27 (s, 3H), 2.22 (s, 3H).

reactant | 4-chloro-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine | 1.76 g | ClC1=C2C(=NC(=N1)N)NN=C2 | C5H4ClN5
reactant | 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine hydrochloride | 3.70 g | Cl.ClCC1=NC=C(C(=C1C)OC)C
reactant | K2CO3 | 5.17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Chloro-1-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-1H-pyrazolo[3,4-d]pyrimidin-6-ylamine | 0.57 g | ClC1=C2C(=NC(=N1)N)N(N=C2)CC2=NC=C(C(=C2C)OC)C | C14H15ClN6O
